US04507478
One gram of trans-(±)-1-n-propyl-6-oxo-7-dimethylaminomethylenedecahydroquinoline was reacted with 0.33 g. of thiourea in 20 ml. of ethanol by refluxing overnight under a nitrogen atmosphere. The volatile constituents were removed in vacuo to yield trans-(±)-2-mercapto-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline free base. The free base was converted to the dihydrochloride salt by standard procedures to yield 0.17 g. of dihydrochloride salt melting at 267°-277° C. after recrystallization from methanol.

reactant | trans-(±)-1-n-propyl-6-oxo-7-dimethylaminomethylenedecahydroquinoline | One gram | C(CC)N1CCC[C@@H]2CC(C(C[C@@H]12)=CN(C)C)=O | C15H26N2O
reactant | thiourea | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | trans-(±)-2-mercapto-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline | SC=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C14H21N3S
